US08420812B2
4-Quinolin-3-ylethynyl-phenylamine
This product was prepared from toluene-4-sulfonic acid quinolin-3-yl ester and 4-ethynyl-phenylamine following the general procedure for the Sonogashira cross-coupling reaction described above. Chromatography eluent: heptane/EtOAc 6:4; yield (120 mg, 98%); 1H NMR δ (CDCl3): 8.98 (s, 1H), 8.34 (s, 1H), 8.21 (d, J=8.60 Hz, 1H), 7.87-7.71 (d m, 2H), 7.68-7.57 (m, 1H), 7.40 (d, J=8.36 Hz, 2H), 6.67 (d, J=8.38 Hz, 2H), 4.46 (br s, 2H); LCMS m/z: 244.

reactant | toluene-4-sulfonic acid quinolin-3-yl ester | N1=CC(=CC2=CC=CC=C12)OS(=O)(=O)C1=CC=C(C=C1)C | C16H13NO3S
reactant | 4-ethynyl-phenylamine | C(#C)C1=CC=C(C=C1)N | C8H7N
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | 4-Quinolin-3-ylethynyl-phenylamine | N1=CC(=CC2=CC=CC=C12)C#CC1=CC=C(C=C1)N | C17H12N2
